US08372874B2
Step 1: Synthesis of 3-(2-Methoxy-ethoxy)-2,2-dimethyl-propionic acid methyl ester
To a solution of methyl 3-hydroxy-2,2-dimethyl-propionate (2.72 mL, 21.28 mmol) in 3 mL of DMF is added 60% sodium hydride in mineral oil (1.70 g, 42.56 mmol) in one portion, followed by the addition of 2-bromoethyl methyl ether (4.0 mL, 42.56 mmol). The reaction mixture is stirred at room temperature for 3 hs. After this time, the reaction mixture is quenched with saturated aqueous NH4Cl solution and the product is extracted with DCM twice. The organics are combined and washed with water 4 times then brine, dried over Na2SO4, filtered and concentrated under reduced pressure to yield the title compound. Yield: 76%; 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.19 (6H, s), 3.36 (3H, s), 3.48 (2H, s), 3.48-3.52 (2H, m), 3.54-3.60 (2H, m), 3.67 (3H, s).

reactant | methyl 3-hydroxy-2,2-dimethyl-propionate | 21.28 mmol, 2.72 mL | OCC(C(=O)OC)(C)C | C6H12O3
reactant | sodium hydride | [H-].[Na+]
reactant | 2-bromoethyl methyl ether | 42.56 mmol, 4.0 mL | COCCBr | C3H7BrO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 3-(2-Methoxy-ethoxy)-2,2-dimethyl-propionic acid methyl ester | Yield: 76% | COC(C(COCCOC)(C)C)=O | C9H18O4
